US07041696B2
Preparation of (3S,6S,10aS)-6-[(isoquinoline-1-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carboxylic acid (2-ethoxy-5-oxo-tetrahydro-furan-3-yl)-amide (15):
To a solution of N-allyloxycarbonyl-4-amino-5-ethoxy-2-oxotetrahydrofuran (1.83 g, 8.0 mmol) in dichloromethane (30 mL) is added N, N-dimethylbarbituric acid (2.98 g, 47.8 mmol) and tetrakispalladium(0)triphenyl phosphine (0.85 g, 1.9 mmol). The resulting mixture immediately produces CO2 and is allowed to stir at room temperature for 15 minutes after gas evolution has ceased. To this mixture is added 6-[(Isoquinoline-1-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carboxylic acid, 14, (1.2 g, 3.15 mmol), hydroxybenztriazole (1.0 g, 18.5 mmol) and 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (1.4 g, 18.5 mmol). The reaction mixture is allowed to stir for 2 hours at room temperature. The reaction mixture is poured into water and extracted with ethyl acetate. The organic layers are combined and washed with saturated sodium bicarbonate, brine, dried with sodium sulfate and concentrated in vacuo. The residue is purified over silica (ethyl acetate) to afford 1.42 g (89% yield) of the desired product as a yellow foam. 1H NMR (300 MHz, CDCl3): δ 9.50 (m,1H), 9.02 (d, J=7.7 Hz, 1H), 8.50 (d, J=5.4 Hz, 1H), 7.83 (m, 3H), 7.69–7.41 (m, 3H), 5.84 (m, 1H), 5.70 (m, 1H), 5.49 (m, 2H), 4.71 (m, 2H), 4.26 (m, 1H), 3.90 (m, 1H), 3.71 (m, 1H), 3.17–2.95 (m, 2H), 2.80 (m, 1H), 2.51=2.30 (m, 4H), 2.14 (m,1H), 1.90 (m, 2H), 1.31 (t, J=7.0 HZ, 3H). 13C NMR (CDCl3): δ 173.8, 171.9, 171.0, 165.7, 147.8, 140.8, 137.6, 133.4, 132.4, 132.2, 132.0, 130.7, 130.4, 128.8, 127.7, 127.6, 127.2, 126.0, 124.8, 101.6, 66.0, 61.0, 58.9, 50.3, 48.4, 34.9, 33.5, 33.0, 32.6, 36.6, 15.2. ESI MS-507.15 (M+H).

reactant | N-allyloxycarbonyl-4-amino-5-ethoxy-2-oxotetrahydrofuran | 8.0 mmol, 1.83 g | C(C=C)OC(=O)NC1CC(OC1OCC)=O | C10H15NO5
reactant | CO2 | C(=O)=O | CO2
reactant | 6-[(Isoquinoline-1-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carboxylic acid | C1(=NC=CC2=CC=CC=C12)C(=O)NC1CC=CCC2N(C1=O)C(CC2)C(=O)O | C21H21N3O4
reactant | hydroxybenztriazole | 3.15 mmol, 1.2 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 18.5 mmol, 1.4 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (3S,6S,10aS)-6-[(isoquinoline-1-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carboxylic acid (2-ethoxy-5-oxo-tetrahydro-furan-3-yl)-amide | 1.42 g, 89% yield | C(C)OC1OC(CC1NC(=O)[C@@H]1CC[C@@H]2N1C([C@H](CC=CC2)NC(=O)C2=NC=CC1=CC=CC=C21)=O)=O | C27H30N4O6
